US08735384B2
To a sealed vessel containing 2-(2-amino-3-morpholinoquinolin-6-yl)-3-methylbenzonitrile (0.040 g, 0.116 mmol) under N2 atmosphere was added a solution of propylmagnesium bromide, 2.0M in THF (0.232 mL, 0.465 mmol) via syringe at ambient temperature. The mixture was sonicated until all solids were in solution and then warmed vessel to 60° C. for 7 h. The mixture was concentrated, diluted with MeOH and purified on HPLC (10-100% MeCN/H2O with 0.1% TFA modifier) to afford 6-(2-(1-iminobutyl)-6-methylphenyl)-3-morpholinoquinolin-2-amine as white solid. MS (ESI, pos. ion) m/z: 389 (M+1).

reactant | 2-(2-amino-3-morpholinoquinolin-6-yl)-3-methylbenzonitrile | 0.116 mmol, 0.040 g | NC1=NC2=CC=C(C=C2C=C1N1CCOCC1)C1=C(C#N)C=CC=C1C | C21H20N4O
reactant | propylmagnesium bromide | C(CC)[Mg]Br
reactant | THF | 0.465 mmol, 0.232 mL | C1CCOC1 | C4H8O
product | 6-(2-(1-iminobutyl)-6-methylphenyl)-3-morpholinoquinolin-2-amine | N=C(CCC)C1=C(C(=CC=C1)C)C=1C=C2C=C(C(=NC2=CC1)N)N1CCOCC1 | C24H28N4O
